### PR TITLE
feat: add open questions on irrationality (and a bit of moving things around)

### PR DESCRIPTION
**Pull request by Reklle**
Good day! I decided to expand the list of open questions on irrationality. I mainly relied on [Wikipedia, Transcendental number](https://en.wikipedia.org/wiki/Transcendental_number).
I hope I'm heading in the right direction. If it has value, I might add more.

Should I make a similar list for transcendence questions?

### CODE REVIEW

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 1]
```diff
@@ -1,73 +1,187 @@
...
+* `n` - upper bound for summation
+
+The sequence calculates the difference between:
+1. The sum of reciprocals of natural numbers ≤ `n` congruent to `a` modulo `q`
+2. The natural logarithm of `n` scaled by `1/q`
+
+`eulerMascheroniSeq` occurs when `q=1` and `a=1`.
+-/
+noncomputable def eulerLehmerSeq (a : ℕ) (q : ℕ+) (n : ℕ) : ℝ :=
+  let S (x : ℕ) := ∑ k in (Finset.Icc 1 x).filter (· ≡ a [MOD (q : ℕ)]), (1 : ℝ) / k
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Irrational.lean]: Since `S` only gets used once in a line that isn't much more complicated, I think you might as well just inline this

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 2]
```diff
@@ -1,73 +1,187 @@
...
+  S n - log n / q
+
+/--
+**Euler-Lehmer constant** for residue class `a` modulo `q`.
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Euler%27s_constant#Euler-Lehmer_constants)
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Irrational.lean]: The reference is definitely very useful to have, but since it's already mentioned above, I think having the informal definition of the constant would be better for readability.

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 3]
```diff
@@ -1,73 +1,187 @@
...
+-/
+@[category research solved, AMS 33]
+theorem irrational_gamma_1_6 : Irrational (1/6 : ℝ).Gamma := by
+  sorry
+
+/--
+$\Gamma(1/n)$ for `n ≥ 2` is irrational.
+-/
+@[category research open, AMS 33]
+theorem irrational_gamma_1_n (n : ℕ) (hn : 1 < n) : Irrational (1/4 : ℝ).Gamma := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Irrational.lean]:
```suggestion
theorem irrational_gamma_1_n (n : ℕ) (hn : 1 < n) : Irrational (1 / n : ℝ).Gamma := by

```

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 4]
```diff
@@ -1,73 +1,187 @@
...
+  sorry
+
+/--
+$\Gamma(1/n)$ for `n ≥ 2` is irrational.
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Irrational.lean]: The docstring doesn't match the statement here.

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 5]
```diff
@@ -1,73 +1,187 @@
...
+Euler-Mascheroni constant $\gamma$ is irrational.
+-/
+@[category research open, AMS 33]
+theorem irrational_euler_mascheroni_constant : Irrational eulerMascheroniConstant := by
+  sorry
+
+/--
+At least one of Catalan constant and the Gompertz constant is irrational.
+-/
+@[category research solved, AMS 11, AMS 33]
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Irrational.lean]:
```suggestion
@[category research solved, AMS 11 33]
```
(and same below)

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 6]
```diff
@@ -1,73 +1,187 @@
...
+noncomputable def eulerLehmerSeq (a : ℕ) (q : ℕ+) (n : ℕ) : ℝ :=
+  let S (x : ℕ) := ∑ k in (Finset.Icc 1 x).filter (· ≡ a [MOD (q : ℕ)]), (1 : ℝ) / k
+  S n - log n / q
+
+/--
+**Euler-Lehmer constant** for residue class `a` modulo `q`.
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Euler%27s_constant#Euler-Lehmer_constants)
+-/
+noncomputable def eulerLehmerConstant (a : ℕ) (q : ℕ+) : ℝ :=
+  limUnder atTop (eulerLehmerSeq a q)
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Irrational.lean]: Here, I think it would be nice to add a sanity check (with the `API` category) stating that the sequence does in fact converge

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR!

**Comment by Paul-Lez** [comment]
To answer the question in you PR description, feel free to do the same for transcendence questions!

File: FormalConjectures/Wikipedia/Irrational.lean (hunk 6 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Irrational.lean]: Maybe it's worth formalizing this by analogy with `eulerMascheroniSeq` this and adding it to the matlib?

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Irrational.lean]: That could be nice!

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Irrational.lean]: A full Mathlib PR might take a little longer to get merged, so feel free to add something to `ForMathlib` here for an initial review, and then upstream it to Mathlib

Comment (Reklle) [reply FormalConjectures/Wikipedia/Irrational.lean]: Okay, thank you!

**Comment by Paul-Lez** [comment]
Concerning the file structure, one suggestion I have would be to split your version of `Irrational.lean` into three files: the original version, one with the questions from the [Transcendental Number](https://en.wikipedia.org/wiki/Transcendental_number) wiki page and one with the questions from the [Euler-Lehmer](https://en.wikipedia.org/wiki/Euler%27s_constant#Euler-Lehmer_constants) constant wiki page, in order to (roughly) stick to one wiki page source per file.

**Comment by Reklle** [comment]
@Paul-Lez, I'm not sure, but it seems better to leave `Transcendental.lean` only for questions of transcendence and not move irrationality into it.

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 7]
```diff
@@ -1,73 +1,164 @@
...
+-/
+noncomputable def gompertzConstant : ℝ :=
+  -e * ∫ (t:ℝ) in Set.Ioi 1, exp (-t) / t
+
+/--
+At least one of the numbers $2^t$ and $3^t$ is irrational.
+-/
+@[category research open, AMS 11]
+theorem two_pow_three_pow_irrational (t : ℝ) (h : Irrational t) :
+    Irrational (2 ^ t) ∨ Irrational (3 ^ t) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Irrational.lean]: Where are you getting this question from?

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 8]
```diff
@@ -1,73 +1,164 @@
...
+
+/--
+**Gompertz constant**
+$$\delta = -e * \int_1^∞ e^{-t}/t dt \approx 0.59634$$
+-/
+noncomputable def gompertzConstant : ℝ :=
+  -e * ∫ (t:ℝ) in Set.Ioi 1, exp (-t) / t
+
+/--
+At least one of the numbers $2^t$ and $3^t$ is irrational.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Irrational.lean]:
```suggestion
For any irrational `t`, at least one of the numbers $2^t$ and $3^t$ is irrational.

```

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 9]
```diff
@@ -1,73 +1,164 @@
...
+  sorry
+
+/--
+$\ln(\pi)$ is irrational.
+-/
+@[category research open, AMS 33]
+theorem irrational_ln_pi : Irrational (log π) := by
+  sorry
+
+/--
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Irrational.lean]: From here onwards it seems that all questions except the one about the catalan constant should be asking if they are transcendental. Could you make a new file `Transcendental.lean` and put them there? Thanks!

**Review by callesonne — COMMENTED** [review]
Thanks for your contribution again!

File: FormalConjectures/Wikipedia/Irrational.lean (hunk 9 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Irrational.lean]: @callesonne, I thought it would be nice to collect all the questions about irrationality in one place. Although now I realize that it does not correspond to the format of one source per file.

`Transcendental.lean` will be in PR related to updating `SchanuelsConjecture.lean`
Should I add questions about irrationality of zeta functions etc. to this file?

Comment (callesonne) [reply FormalConjectures/Wikipedia/Irrational.lean]: Yes adding questions about the zeta function would be great! Then I suggest to move the statements once that PR has been merged.

Comment (smmercuri) [reply FormalConjectures/Wikipedia/Irrational.lean]: Note that irrationality of zeta function values are already present in [Wikipedia/RiemannZetaValues.lean](https://github.com/google-deepmind/formal-conjectures/blob/main/FormalConjectures/Wikipedia/RiemannZetaValues.lean)

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Irrational.lean]: I've moved stuff to `Transcendental.lean`. I've kept some questions in `Irrational.lean` (i.e. ones where even irrationality isn't known)

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 10]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
...
+@[category research solved, AMS 11 33]
+theorem transcendental_catalan_or_gompertz :
+    Transcendental ℚ catalanConstant ∨ Transcendental ℚ gompertzConstant := by
+  sorry
+
+/--
+The Catalan constant $G$ is transcendental.
+-/
+@[category research open, AMS 11, AMS 33]
+theorem transcendental_catalan_constant : Transcendental ℚ catalanConstant := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]: should we phrase these transcendental Qs with `answer(sorry)` as is done for the `Irrational`

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 11]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
...
+-/
+@[category research open, AMS 33]
+theorem transcendental_gamma_1_n (n : ℕ) (hn : 2 ≤ n) : Transcendental ℚ (1 / n : ℝ).Gamma := by
+  sorry
+
+/--
+Catalan's constant $$G = \sum_{n=0}^∞ (-1)^n / (2n + 1)^2$$ is transcendental.
+-/
+@[category research open, AMS 33]
+theorem transcendental_catalanConstant : Transcendental ℚ catalanConstant := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]: This is a duplicate I think?

File: FormalConjectures/Wikipedia/Transcendental.lean (hunk 10 above)
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]:
```suggestion
theorem transcendental_catalanConstant : Transcendental ℚ catalanConstant := by
```

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 12]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
     Transcendental ℚ (π + rexp 1) ∨ Transcendental ℚ (π * exp 1) := by
   sorry
 
-end Transcendental
+/--
+At least one of Catalan constant and the Gompertz constant is transcendental.
+-/
+@[category research solved, AMS 11 33]
+theorem transcendental_catalan_or_gompertz :
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]:
```suggestion
theorem transcendental_catalanConstant_or_gompertzConstant :
```

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 13]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
...
+-/
+@[category research open, AMS 11, AMS 33]
+theorem transcendental_catalan_constant : Transcendental ℚ catalanConstant := by
+  sorry
+
+/--
+The Gompertz constant $\delta$ is transcendental.
+-/
+@[category research open, AMS 33]
+theorem transcendental_gompertz_constant : Transcendental ℚ gompertzConstant := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]:
```suggestion
theorem transcendental_gompertzConstant : Transcendental ℚ gompertzConstant := by
```

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 14]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
...
+-/
+@[category research solved, AMS 33]
+theorem transcendental_gamma_1_6 : Transcendental ℚ (1 / 6 : ℝ).Gamma := by
+  sorry
+
+/--
+$\Gamma(1/n)$ for `n ≥ 2` is transcendental.
+-/
+@[category research open, AMS 33]
+theorem transcendental_gamma_1_n (n : ℕ) (hn : 2 ≤ n) : Transcendental ℚ (1 / n : ℝ).Gamma := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]:
```suggestion
theorem transcendental_gamma_one_div (n : ℕ) (hn : 2 ≤ n) : Transcendental ℚ (1 / n : ℝ).Gamma := by
```

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 15]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
...
+theorem transcendental_gamma_1_4 : Transcendental ℚ (1 / 4 : ℝ).Gamma := by
+  sorry
+
+/--
+$\Gamma(1/6)$ is transcendental.
+
+[Ch84] Chudnovsky, G. (1984). Contributions to the theory of transcendental numbers.
+-/
+@[category research solved, AMS 33]
+theorem transcendental_gamma_1_6 : Transcendental ℚ (1 / 6 : ℝ).Gamma := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]:
```suggestion
theorem transcendental_gamma_one_div_six : Transcendental ℚ (1 / 6 : ℝ).Gamma := by
```

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 16]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
...
+theorem transcendental_gamma_1_3 : Transcendental ℚ (1 / 3 : ℝ).Gamma := by
+  sorry
+
+/--
+$\Gamma(1/4)$ is transcendental.
+
+[Ch84] Chudnovsky, G. (1984). Contributions to the theory of transcendental numbers.
+-/
+@[category research solved, AMS 33]
+theorem transcendental_gamma_1_4 : Transcendental ℚ (1 / 4 : ℝ).Gamma := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]:
```suggestion
theorem transcendental_gamma_one_div_four : Transcendental ℚ (1 / 4 : ℝ).Gamma := by
```

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 17]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
...
+theorem transcendental_gamma_1_2 : Transcendental ℚ (1 / 2 : ℝ).Gamma := by
+  sorry
+
+/--
+$\Gamma(1/3)$ is transcendental.
+
+[Ch84] Chudnovsky, G. (1984). Contributions to the theory of transcendental numbers.
+-/
+@[category research solved, AMS 33]
+theorem transcendental_gamma_1_3 : Transcendental ℚ (1 / 3 : ℝ).Gamma := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]:
```suggestion
theorem transcendental_gamma_one_div_three : Transcendental ℚ (1 / 3 : ℝ).Gamma := by
```

File: FormalConjectures/Wikipedia/Transcendental.lean [hunk 18]
```diff
@@ -131,4 +131,74 @@ theorem exp_add_pi_or_exp_add_mul_transcendental :
...
+theorem transcendental_gompertz_constant : Transcendental ℚ gompertzConstant := by
+  sorry
+
+/--
+$\Gamma(1/2)$ is transcendental.
+
+[Ch84] Chudnovsky, G. (1984). Contributions to the theory of transcendental numbers.
+-/
+@[category research solved, AMS 33]
+theorem transcendental_gamma_1_2 : Transcendental ℚ (1 / 2 : ℝ).Gamma := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Transcendental.lean]:
```suggestion
theorem transcendental_gamma_one_div_two : Transcendental ℚ (1 / 2 : ℝ).Gamma := by
```

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 19]
```diff
@@ -32,47 +31,74 @@ local notation "e" => exp 1
...
+theorem irrational_ln_pi :
+    Irrational (log π) ↔ answer(sorry) := by
   sorry
 
-/-- The Catalan constant is irrational -/
+/--
+Is the Euler-Mascheroni constant $\gamma$ irrational?
+-/
+@[category research open, AMS 33]
+theorem irrational_euler_mascheroni_constant :
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Irrational.lean]:
```suggestion
theorem irrational_eulerMascheroniConstant :
```

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 20]
```diff
@@ -32,47 +31,74 @@ local notation "e" => exp 1
...
+    Irrational eulerMascheroniConstant ↔ answer(sorry) := by
+  sorry
+
+/--
+Is the Catalan constant $$G = \sum_{n=0}^∞ (-1)^n / (2n + 1)^2 \approx 0.91596$$ irrational?
+-/
 @[category research open, AMS 11 33]
 theorem irrational_catalan_constant :
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Irrational.lean]:
```suggestion
theorem irrational_catalanConstant :
```

File: FormalConjectures/Wikipedia/Irrational.lean [hunk 21]
```diff
@@ -32,47 +31,74 @@ local notation "e" => exp 1
 
 namespace Irrational
 
-/-- $e + \pi$ is irrational -/
+/-- Are $e$ and $\pi$ algebraically independent? -/
 @[category research open, AMS 33]
-theorem irrational_e_plus_pi : Irrational (e + π) := by
+theorem algebraic_independent_e_pi :
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Irrational.lean]:
```suggestion
theorem algebraicIndependent_e_pi :
```

File: FormalConjectures/Wikipedia/Transcendental.lean (hunk 10 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Transcendental.lean]: I'd be tempted to keep this in the current format here since it seems both irrationality and transcendence are strongly suspected.

**Comment by Reklle** [comment]
@Paul-Lez, @smmercuri, thank you very much! I was absent from the project for a long time, unfortunately, health problems... But I really hope that I will return soon! Sorry for abandoning my PRs.

**Comment by Reklle** [comment]
By the way, I propose renaming `transcendental_gamma_one_div` to `transcendental_gamma_n_recip` or something like that

File: FormalConjectures/Wikipedia/Transcendental.lean (hunk 11 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Transcendental.lean]: Removed

**Comment by Paul-Lez** [comment]
> @Paul-Lez, @smmercuri, thank you very much! I was absent from the project for a long time, unfortunately, health problems... But I really hope that I will return soon! Sorry for abandoning my PRs.

@Reklle No problem, and hope you recover well!

**Comment by Paul-Lez** [comment]
> By the way, I propose renaming `transcendental_gamma_one_div` to `transcendental_gamma_n_recip` or something like that

For this, I think sticking to `one_div` is a little nicer since it's aligned with how things are done in Mathlib!

**Review by Paul-Lez — APPROVED** [review]
